US07812022B2
Step D: N-{5-[(2-Chloro-4-pyrimidinyl)ethynyl]-2-fluorophenyl}-2,2,2-trifluoroacetamide
To an oven-dried flask under N2 was added 2,4-dichloropyrimidine (5.1 g, 34 mmol), anhydrous degassed THF (250 mL), dichlorobis(triphenylphosphine)-palladium(II) (595 mg, 0.85 mmol), copper(I) iodide (97 mg, 0.5 mmol), and TEA (9.5 mL, 68 mmol), and the resulting suspension was heated to 60° C. A solution of N-(5-ethynyl-2-fluorophenyl)-2,2,2-trifluoroacetamide (3.9 g, 17 mmol) in THF (100 mL) was added dropwise, and the resulting mixture stirred overnight at 60° C. After 16 h, the crude reaction mixture was filtered through celite, adsorbed to silica gel, and purified by column chromatography to afford the desired product (4.6 g, 78%) as an off white solid. 1H NMR (400 MHz, CDCl3): δ 8.65 (d, J=5.1 Hz, 1H), 8.58 (d, J=7.3 Hz, 1H), 7.49 (m, 1H), 7.41 (d, J=5.0 Hz, 1H), 7.24 (m, 1H). ES-LC/MS m/z=344 [M+H]+.

reactant | 2,4-dichloropyrimidine | 34 mmol, 5.1 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | N-(5-ethynyl-2-fluorophenyl)-2,2,2-trifluoroacetamide | 17 mmol, 3.9 g | C(#C)C=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C10H5F4NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.85 mmol, 595 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.5 mmol, 97 mg | [Cu]I
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | N-{5-[(2-Chloro-4-pyrimidinyl)ethynyl]-2-fluorophenyl}-2,2,2-trifluoroacetamide | 4.6 g, 78% | ClC1=NC=CC(=N1)C#CC=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C14H6ClF4N3O
